US05489593
1-Benzyloxycarbonyl-4-[3-(2-fluoroacetamido)-2-pyridinyl]piperazine
Following the general procedure of PREPARATION 101 and making non-critical variations but starting with fluoroacetyl chloride (0.94 g), 1-benzyloxycarbonyl-4-[3-amino-2-pyridinyl]piperazine (PREPARATION 100, 3.0 g), the title compound is obtained, NMR (300 MHz, CDCl3) 8.83, 8.65, 8.14, 7.38-7.32, 7.12, 5.17, 4.96, 3.70 and 3.07 δ.

reactant | fluoroacetyl chloride | 0.94 g | FCC(=O)Cl | C2H2ClFO
reactant | 1-benzyloxycarbonyl-4-[3-amino-2-pyridinyl]piperazine | 3.0 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC=CC=C1N | C17H20N4O2
product | 1-Benzyloxycarbonyl-4-[3-(2-fluoroacetamido)-2-pyridinyl]piperazine | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC=CC=C1NC(CF)=O | C19H21FN4O3
